US06936602B1
In toluene/ethanol/water (=10/1/1, 62.4 ml) was dissolved tert-butyl 7-bromo-1-(2-methoxyethyl)-2,3-dihydro-1-benzazepine-4-carboxylate (1.8 g). To the solution were added 4-(2-butoxyethoxy)phenyl borate (1.68 g) and potassium carbonate (1.55 g), and the mixture was stirred for 30 minutes under argon atmosphere. To the mixture was added tetrakistriphenylphosphinpalladium (0.22 g), and the mixture was heated to reflux for 16 hours. After cooled to room temperature, the reaction solution was added to water, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine and dried with magnesium sulfate. The solvent was removed under reduced pressure, and the resulting residue was purified with silica gel column chromatography (ethyl acetate/ethanol=5/1) to give tert-butyl 7-[4-(2-butoxyethoxy)phenyl]-1-(2-methoxyethyl)-2,3-dihydro-1-benzazepine-4-carboxylate (1.4 g).

reactant | tert-butyl 7-bromo-1-(2-methoxyethyl)-2,3-dihydro-1-benzazepine-4-carboxylate | 1.8 g | BrC=1C=CC2=C(C=C(CCN2CCOC)C(=O)OC(C)(C)C)C1 | C18H24BrNO3
reactant | 4-(2-butoxyethoxy)phenyl borate | 1.68 g | B(OC1=CC=C(C=C1)OCCOCCCC)([O-])[O-]
reactant | potassium carbonate | 1.55 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | toluene ethanol water | 62.4 ml | C1(=CC=CC=C1)C.C(C)O.O
product | tert-butyl 7-[4-(2-butoxyethoxy)phenyl]-1-(2-methoxyethyl)-2,3-dihydro-1-benzazepine-4-carboxylate | 1.4 g | C(CCC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCN2CCOC)C(=O)OC(C)(C)C)C1 | C30H41NO5
